delta_loaded_network - fault test
Vin A 0 DC 12
Ra A B 30.534467
Rb B C 30.318079
Rc C A 30.066379
Rload B 0 30.596856
.op
.control
run
print v(A) v(B) v(C)
print @ra[i] @rb[i] @rc[i] @rload[i]
.endc
.end
